US04616086
4-Chlorobenzyl 3-{4-[2-(1-(4-chlorobenzyl)-piperazin-4-yl)-ethyl]-phenyl}-propionate
This is obtained by reacting 3-{4-[2-(piperazin-1-yl)-ethyl]phenyl}-propionic acid (m.p. 264°-266° C.) with 2 mole 4-chlorobenzyl chloride analogously to Example 60a) (conditions potassium carbonate/butan-2-one; 36 hours reflux temperature). Yield 62% of theory of dihydrochloride; m.p. 248°-250° C.

reactant | 3-{4-[2-(piperazin-1-yl)-ethyl]phenyl}-propionic acid | N1(CCNCC1)CCC1=CC=C(C=C1)CCC(=O)O | C15H22N2O2
reactant | 4-chlorobenzyl chloride | 2 mole | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | potassium carbonate butan-2-one | C([O-])([O-])=O.[K+].[K+].CC(CC)=O
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 4-Chlorobenzyl 3-{4-[2-(1-(4-chlorobenzyl)-piperazin-4-yl)-ethyl]-phenyl}-propionate | Yield 62% | ClC1=CC=C(CN2CCN(CC2)CCC2=CC=C(C=C2)CCC(=O)OCC2=CC=C(C=C2)Cl)C=C1 | C29H32Cl2N2O2
